US04515948
A suspension of 21.6 g. of dimethylsulfone and 7.7 g. of sodium hydride (50% dispersion in oil) in 80 ml. of absolute dimethylsulfoxide was stirred at 50° C. for 3 hours under an atmosphere of nitrogen and the exclusion of moisture. The mixture was cooled to 30° C. and 15.6 g. of 4-(dimethylamino)-3,5-dimethoxybenzoic acid methyl ester were added. After stirring at room temperature for 4 hours, 500 ml. of water were added and the solution was made neutral with glacial acetic acid. The precipitate was removed by filtration with suction, washed with water, dried, recrystallized from ethyl acetate/cyclohexane, whereby there was obtained 4'-(dimethylamino)-3',5'-dimethoxy-2-(methylsulfonyl)-acetophenone having a melting point of 111°-112° C.

reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-(dimethylamino)-3,5-dimethoxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)N(C)C)OC)=O | C12H17NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4'-(dimethylamino)-3',5'-dimethoxy-2-(methylsulfonyl)-acetophenone | CN(C1=C(C=C(C=C1OC)C(CS(=O)(=O)C)=O)OC)C | C13H19NO5S
